US08557983B2
tert-butyl 5-hydroxy-3,4-dihydroisoquinoline-2(1H)-carboxylate
A mixture of 1,2,3,4-tetrahydroisoquinolin-5-ol, hydrochloric acid (1.0 g), di-tert-butyl dicarbonate (1.27 g) and 1.0 N aqueous NaOH (14.5 mL) in dioxane (20 mL) was stirred at room temperature for 16 hours. The reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was neutralized with 5% aqueous HCl. The combined organic layers were washed with brine, dried (MgSO4), filtered, and concentrated. The residue was purified by flash chromatography on silica gel to give the title compound.

reactant | 1,2,3,4-tetrahydroisoquinolin-5-ol | C1NCCC=2C(=CC=CC12)O | C9H11NO
reactant | hydrochloric acid | 1.0 g | Cl | ClH
reactant | di-tert-butyl dicarbonate | 1.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 1.0 N, 14.5 mL | [OH-].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 5-hydroxy-3,4-dihydroisoquinoline-2(1H)-carboxylate | OC1=C2CCN(CC2=CC=C1)C(=O)OC(C)(C)C | C14H19NO3
